US07402684B2
{(S)-2-[4-(4-Chloro-phenoxy)-phenoxymethyl]-piperidin-1-yl}-acetic acid tert-butyl ester:
A solution of (S)-2-[4-(4-chloro-phenoxy)-phenoxymethyl]-piperidine hydrochloride (218 mg, 0.615 mmol), t-butylbromoacetate (150 mg, 0.769 mmol), and triethylamine (124 mg, 1.23 mmol) in dichloromethane (2.5 mL) was heated for 18 h at 30° C. The mixture was diluted with 5 mls of water and extracted with dichloromethane (8 mL). The aqueous layer was re-extracted with ethyl acetate (8 mL). The combined organic layers were dried over anhy. Na2SO4 and the solvent was removed in vacuo to obtain the crude mixture, which was purified by silica gel flash chromatography to obtain the title product (125 mg, 47%).

reactant | (S)-2-[4-(4-chloro-phenoxy)-phenoxymethyl]-piperidine hydrochloride | 0.615 mmol, 218 mg | Cl.ClC1=CC=C(OC2=CC=C(OC[C@H]3NCCCC3)C=C2)C=C1
reactant | t-butylbromoacetate | 0.769 mmol, 150 mg | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | triethylamine | 1.23 mmol, 124 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | water | 5 mls | O | H2O
product | {(S)-2-[4-(4-Chloro-phenoxy)-phenoxymethyl]-piperidin-1-yl}-acetic acid tert-butyl ester | 125 mg, 47% | C(C)(C)(C)OC(CN1[C@@H](CCCC1)COC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)=O | C24H30ClNO4
